US07541372B2
rac-{2-Fluoro-5-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-(tetrahydro-furan-2-ylmethyl)-amine
As described for example 26, 2-(4,5-difluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole (200 mg, 0.54 mmol) instead of 2-(4-fluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole was converted using rac-tetrahydrofurfurylamine instead of thiomorpholine to the title compound (129 mg, 53%) which was obtained as an off-white solid. MS: m/e=451.2 [M+H]+.

reactant | 2-(4,5-difluoro-2-methoxy-phenyl)-5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazole | 0.54 mmol, 200 mg | FC1=CC(=C(C=C1F)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC | C19H13F2N3O3
reactant | rac-tetrahydrofurfurylamine | C(C1CCCO1)N | C5H11NO
product | rac-{2-Fluoro-5-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-(tetrahydro-furan-2-ylmethyl)-amine | 129 mg, 53% | FC1=C(C=C(C(=C1)C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)OC)NCC1OCCC1 | C24H23FN4O4
